Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F with a history of PNES, chronic Lyme, 
CNS
Lyme, and Babesiosis previously on Rocephin and currently on
antimalarials who presented to ___ last night after
typical seizure-like activity followed by atypical
coughing/gagging concerning for aspiration, wheezing, and
shortness of breath. She was evaluated by ENT who did not note
any swelling to explain wheezing; their report mentions that it
may be volitional. Her course has been complicated by more
frequent seizure-like activity; she typically has episodes ___
times a week and she has had ___ episodes in the last 24 hours.
Her events are typically provoked by stress and exertion. Labs
are notable for an elevated lactate (4.0-4.3), and the ___ physicians were concerned for infection. She was
given vanc/Zosyn at ___. 

In the ___ ED, the patient reported difficulty breathing and
phonating. She reports that she receives treatment for chronic
Lyme in ___, where she is from. She has an indwelling
catheter which is tunneled through her chest. Denies CP, 
N/V/D/C,
recent travel, trauma, abdominal pain, weakness, numbness, focal
neurologic deficits.

In the ED, initial vitals were:  
T 97.8 HR 92 BP 121/90 RR 20 O2 Sat 97% RA 
 
- Exam notable for:  
Lethargic-appearing, intermittent voluntary convulsions, audible
high-pitched inspiratory breath sounds. No intraoral or neck
swelling, CTAB.

- Labs notable for:  
lactate 4.3
Chloride 111
Bicarb 17

- Imaging was notable for:  
CXR wnl

- Patient was given: 
___ 06:01 PO Acetaminophen 1000 mg  
___ 06:01 IV Metoclopramide 10 mg
___ 06:40 IVF  NS 1000 mL 
___ 07:30 PO/NG Baclofen 10 mg 
___ 07:30 PO LevETIRAcetam 750 mg    
 ___ 10:03 IV Piperacillin-Tazobactam 4.5 g 
___ 10:03 IVF  NS 1000 mL  
___ 10:41 IV LORazepam .5 mg 
___ 11:21 IH Albuterol 0.083% Neb Soln 1 NEB

Upon arrival to the floor, patient reports continued difficulty
breathing. She endorses the history as above. She is confused as
to why she was transferred to ___ and is worried about her
breathing difficulty as this has never happened to her before.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative  

 
Past Medical History:
Chronic Lyme Disease ___ years)
Babesiosis (diagnosed ___
Ehrlichiosis (diagnosed ___, treated)
Rickettsia (diagnosed ___, treated)
Relapsing fever (diagnosed ___, treated)
Seizure disorder/?PNES (diagnosed ___
Involuntary movements (___)
Interstitial cystitis
?Fibromyalgia
PCOS
Pre-diabetes
Uterine fibroids
Herniated disc

 
Social History:
___
Family History:
No history of seizure disorders or strokes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=========================
VITAL SIGNS:  
24 HR Data (last updated ___ @ 1500)
    Temp: 98.5 (Tm 98.5), BP: 102/69, HR: 90, RR: 18, O2 sat:
96%, O2 delivery: Ra  
GENERAL: lying in bed, stridorous sounds, appears to have
difficulty breathing
HEENT: AT/NC
NECK:  supple, no cervical lymphadenopathy
CARDIAC: difficult to appreciate ___ harsh inspiratory breath
sounds, RRR, no m/g/r
LUNGS: inspiratory stridorous sounds throughout lung fields,
clear on expiration throughout in posterior lung fields, appears
to have difficulty breathing
ABDOMEN: bowel sounds present, soft, nontender, nondistended
EXTREMITIES: warm and well perfused, no ___ edema
NEUROLOGIC: alert and oriented x3, CN II-XII intact with the
exception of decreased cooperation with facial movement,
sensation intact to light touch throughout, poor cooperation 
with
motor exam, 2+ biceps, patellar reflexes, downgoing toes
bilaterally
SKIN: no rashes or erythema

DISCHARGE PHYSICAL EXAM:
=========================
VITAL SIGNS:  
24 HR Data (last updated ___ @ 1001)
    Temp: 97.7 (Tm 98.5), BP: 107/71 (102-126/69-87), HR: 107
(79-107), RR: 20 (___), O2 sat: 94% (94-98), O2 delivery: RA   

GENERAL: lying in bed, comfortable appearing
HEENT: AT/NC
NECK:  supple
CARDIAC: RRR, no m/g/r
LUNGS: clear to auscultation bilaterally in posterior lung
fields, no increased work of breathing
ABDOMEN: bowel sounds present, soft, nontender, nondistended
EXTREMITIES: warm and well perfused, no ___ edema
NEUROLOGIC: alert and grossly oriented, moving all extremities
purposefully, face with asymmetric contorsions
SKIN: no rashes or erythema
 
Pertinent Results:
___ 04:29AM BLOOD WBC-6.4 RBC-3.67* Hgb-11.3 Hct-32.0* 
MCV-87 MCH-30.8 MCHC-35.3 RDW-13.2 RDWSD-41.6 Plt ___
___ 04:29AM BLOOD Glucose-97 UreaN-6 Creat-0.5 Na-144 K-3.7 
Cl-111* HCO3-17* AnGap-16
___ 04:39AM BLOOD Lactate-4.3*
___ 06:50AM BLOOD Lactate-4.2*
___ 10:40AM BLOOD Lactate-4.0*
___ 05:38PM BLOOD Lactate-3.6*
___:09AM BLOOD Lactate-4.0*
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with a history of PNES, chronic Lyme, 
CNS Lyme, and Babesiosis currently on Rocephin and 
antimalarials, presenting as a transfer from ___ with 
concern for infection who was not found to have an infectious 
etiology for her symptoms and was subsequently discharged after 
monitoring.

ACUTE ISSUES:
==============
#Stridor
She presented with audible stridor without desaturation or 
abnormal CXR. Additionally at the OSH, ENT evaluated her with a 
direct fiberoptic exam and did not see any evidence of edema or 
inflammation that would point to an organic cause of the 
stridor. The symptoms self-resolved.

#Elevated lactate
Lactate was found to be mildly elevated ~4 throughout admission. 
Less likely to be in the setting of infection given no white 
count, negative CXR, and a noninfectious UA. Also unlikely in 
the setting of dehydration as lactate remained elevated after 2L 
IVF. Also unlikely simply in the setting of PNES episodes as 
lactate did not downtrend after episodes stopped. Given her 
multiple prescribed medications, possibly drug-related. In 
uncommon cases, metformin can cause elevated lactate, so 
possible culprit. Will have her follow with PCP.

#Port placement
CXR was revealing for the tunneled catheter tip projecting over 
the expected location of the junction of the brachiocephalic 
vein and SVC. Additionally, the patient's port was unable to 
draw to blood. The clinical nurse advisor for vascular access 
and nurse coordinator for the ___ line service reviewed the 
imaging and suggested that she be evaluated for possible 
repositioning. This was communicated via email to the patient's 
vascular surgeon who placed the line originally.

#PNES
Diagnosed with seizure disorder from neurologist in ___. 
Treated with Keppra and Ativan. Events are brought on by stress. 
She has never had an EEG, but states her neurologist was 
considering doing one at some point. She had no events while 
here.

CHRONIC ISSUES:
================
#Involuntary movements
Her home baclofen was continued and chlozoxazone was held as it 
is not on formulary. It was restarted on discharge.

#Insomnia
Her home quetiapine was continued.

#GERD
Her home dexilant was held as it is not on formulary. It was 
restarted on discharge.

#Interstitial cystitis
She continued her home Elmiron.

#History of babesiosis diagnosis
Her home clarithromycin and atovaquone were continued.

#Pre-diabetes
Her home metformin was held and re-started on discharge.

# CODE: full (presumed) 
# CONTACT: ___ (mother) ___

TRANSITIONAL ISSUES:
=====================
[] Follow elevated lactate in the outpatient setting, may be in 
the setting of metformin though this is unclear. Recommend 
repeating lactate in follow up.

[] Would reassess central line placement and consider 
re-positioning given that the tip appeared to project beyond the 
SVC junction.

# CODE: full (presumed) 
# CONTACT: ___ (mother) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Clarithromycin 500 mg PO Q12H 
3. LORazepam 0.5 mg PO TID 
4. ValACYclovir 1000 mg PO Q24H 
5. Baclofen 10 mg PO TID 
6. Ferrous GLUCONATE 324 mg PO DAILY 
7. Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (___) 
8. LevETIRAcetam 750 mg PO BID 
9. Elmiron (pentosan polysulfate sodium) 100 mg oral TID 
10. chlorzoxazone 500 mg oral TID:PRN 
11. QUEtiapine Fumarate 25 mg PO QHS 
12. Dexilant (dexlansoprazole) 60 mg oral QAM 
13. Atovaquone Suspension 750 mg PO BID 

 
Discharge Medications:
1.  Atovaquone Suspension 750 mg PO BID  
2.  Baclofen 10 mg PO TID  
3.  chlorzoxazone 500 mg oral TID:PRN  
4.  Clarithromycin 500 mg PO Q12H  
5.  Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (___)  
6.  Dexilant (dexlansoprazole) 60 mg oral QAM  
7.  Elmiron (pentosan polysulfate sodium) 100 mg oral TID  
8.  Ferrous GLUCONATE 324 mg PO DAILY  
9.  LevETIRAcetam 750 mg PO BID  
10.  LORazepam 0.5 mg PO TID  
11.  MetFORMIN (Glucophage) 500 mg PO BID  
12.  QUEtiapine Fumarate 25 mg PO QHS  
13.  ValACYclovir 1000 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Elevated lactate
Functional stridor

SECONDARY:
==========
PNES
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY WERE YOU IN THE HOSPITAL?
- You had difficulty breathing following one of your shaking 
episodes.

WHAT HAPPENED WHILE YOU WERE HERE?
- We monitored your breathing and oxygen levels and they stayed 
normal, and your breathing returned to normal.
- We checked all your labs and obtained an x ray of your chest, 
all of which did not show you have an infection.

WHAT TO DO WHEN YOU LEAVE?
- Continue to take your medicines as prescribed to you.
- Go to all your follow-up appointments.
- Please follow up with your vascular surgeon, Dr. ___ 
placement of your central port. We have reached out to his 
office as well.

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___